US07683185B2
6-Benzenesulfinyl-hexa-2,4-dienoic acid (8d).
To a solution of 6-benzenesulfinyl-hexa-2,4-dienoic acid methyl ester (0.243 g, 0.97 mmol) in methanol (2.0 mL) were added a solution of aqueous sodium hydroxide (1M. 4.0 mL, 4 mmol) and distilled water (10 mL). After stirring at reflux for one hour, the mixture was allowed to cool to 20° C. and was concentrated under reduced pressure. The solution was washed with diethyl ether (25 mL) and then poured onto a mixture of ethyl acetate (20 mL) and hydrochloric acid (2M, 5 mL) at 0° C. The mixture was shaken, and the organic layer separated and washed successively with saturated aqueous sodium hydrogen carbonate (10 mL), distilled water (10 mL), brine (10 mL), then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a pale yellow solid that was recrystallised from ether/hexanes to give the title compound (0.204 g, 89%) as a white solid.

reactant | 6-benzenesulfinyl-hexa-2,4-dienoic acid methyl ester | 0.97 mmol, 0.243 g | COC(C=CC=CCS(=O)C1=CC=CC=C1)=O | C13H14O3S
reactant | sodium hydroxide | 4 mmol, 1M, 4.0 mL | [OH-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | 6-Benzenesulfinyl-hexa-2,4-dienoic acid | 0.204 g, 89% | C1(=CC=CC=C1)S(=O)CC=CC=CC(=O)O | C12H12O3S
